US07183270B2
Part A. Preparation of Pyrido[2,3-d]pyrimidin-4-ol
A mixture of 2-aminonicotinic acid (880 mg, 6.4 mMol) and formamidine acetate (2.0 g, 19.1 mMol) in 2-ethoxyethanol (25 mL) was heated at reflux overnight. The solution was allowed to come to room temperature and stand for 2 hours, then the resulting precipitate was collected by filtration, rinsed with 2-ethoxy ethanol (2×5 mL), diethyl ether (20 mL), and air dried to yield 525 mg of a gray powder as product. MS (ES+)=148 (M+H)+. Yield=56%.

reactant | 2-aminonicotinic acid | 6.4 mMol, 880 mg | NC1=C(C(=O)O)C=CC=N1 | C6H6N2O2
reactant | formamidine acetate | 19.1 mMol, 2.0 g | C(C)(=O)O.C(=N)N
solvent | 2-ethoxyethanol | 25 mL | C(C)OCCO | C4H10O2
product | Pyrido[2,3-d]pyrimidin-4-ol | 525 mg, Yield=56% | N1=CN=C(C2=C1N=CC=C2)O | C7H5N3O
